US07223745B2
6-(Ethylsulfonylamino)hexanoic acid
A solution of ethanesulfonyl chloride (3.9 ml, 41.1 mmol) in dioxane (10 ml) was added to a solution of 6-aminohexanoic acid (2 g, 15.2 mmol) in 1N NaOH (56 ml) and dioxane (10 ml), while stirring at 0–5° C. The pH of the reaction mixture was adjusted to 8–9 by addition of 25% sodium hydroxide solution. The mixture was allowed to warm to room temperature and stirred for 30 minutes. Further 25% NaOH solution was added to adjust the pH to about 11. After 3.5 h 1N hydrochloric acid (15 ml) and ethyl acetate (60 ml) were added. The organic layer was dried over sodium sulfate and concentrated. The residue was triturated with a mixture of diethyl ether (5 ml) and hexane (15 ml). The solid was collected by filtration and dried affording 1.3 g of the title compound (40% yield). 1H NMR (DMSO-d6): 11.9 (1H, s); 6.97 (1H, t, J=5.7 Hz); 2.97 (2H, q, J=7.1); 2.88 (2H, q, J=6.6); 2.2 (2H, t, J=7.3); 1.47 (4H, m); 1.29 (2H, m); 1.18 (3H, t, J=7.3).

reactant | ethanesulfonyl chloride | 41.1 mmol, 3.9 ml | C(C)S(=O)(=O)Cl | C2H5ClO2S
reactant | 6-aminohexanoic acid | 15.2 mmol, 2 g | NCCCCCC(=O)O | C6H13NO2
reactant | hydrochloric acid | 1N, 15 ml | Cl | ClH
reactant | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | NaOH | 1N, 56 ml | [OH-].[Na+]
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 6-(Ethylsulfonylamino)hexanoic acid | 1.3 g, 40% yield | C(C)S(=O)(=O)NCCCCCC(=O)O | C8H17NO4S
